US07709471B2
3-(2-methoxyethylamino)-N-methyl-propanamide
N-Methylacrylamide (ABCR; 500 mg, 5.87 mmol), 2-Methoxyethylamine (Aldrich; 441 mg, 5.87 mmol), and EtOH (2 mL) were combined and heated in a microwave at 140° C. for 40 minutes. The reaction mixture was cooled and added to a 5 g SCX-2 column pre-wet with MeOH (2 column volumes), flushed with MeOH (2 column volumes) then the product eluted with 2M ammonia in MeOH. Product containing fractions were evaporated in vacuo to give the title compound as a clear oil (608 mg, 65%)

reactant | N-Methylacrylamide | 5.87 mmol, 500 mg | CNC(C=C)=O | C4H7NO
reactant | 2-Methoxyethylamine | 5.87 mmol, 441 mg | COCCN | C3H9NO
reactant | EtOH | 2 mL | CCO | C2H6O
solvent | MeOH | CO | CH4O
product | 3-(2-methoxyethylamino)-N-methyl-propanamide | 608 mg, 65% | COCCNCCC(=O)NC | C7H16N2O2
